US07713993B2
Synthesis of 4-chloro-2-(3,4,5-trifluorophenyl)butyric acid
A 2.66 M solution of butyl lithium in hexane (20 mL) was added to a solution of 3,4,5-trifluorophenylacetic acid (5.00 g) in THF (150 mL) in a nitrogen atmosphere at −78° C., and the reaction solution was stirred at −78° C. for 20 minutes. The reaction solution was further stirred at 0° C. for one hour. Then, 1-bromo-2-chloroethane (2.2 mL) was added at 0° C., and the reaction solution was stirred at room temperature for 14 hours. Ethyl acetate and 1 N hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with a saturated sodium chloride solution. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 4.54 g of the title compound. The property values of the compound are as follows.

reactant | butyl lithium | C(CCC)[Li]
reactant | 3,4,5-trifluorophenylacetic acid | 5.00 g | FC=1C=C(C=C(C1F)F)CC(=O)O | C8H5F3O2
reactant | 1-bromo-2-chloroethane | 2.2 mL | BrCCCl | C2H4BrCl
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-(3,4,5-trifluorophenyl)butyric acid | 4.54 g | ClCCC(C(=O)O)C1=CC(=C(C(=C1)F)F)F | C10H8ClF3O2
